US09387200B2
To a solution of the mixture of 4,7-dihydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester and 4,7-dihydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester (6.67 mmol) obtained as described above in dichloroethane (33.3 mL) was added POBr3 (8.0 mmol). The reaction mixture was stirred at 120° C. in a microwave oven for 35 min. After cooling to r.t., the mixture was partitioned between CH2Cl2 and sat. NaHCO3, then filtered and the organic layer of the filtrate was washed with brine before it was dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel. Eluting with 0-20% EtOAc/CH2Cl2, gave 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester (850 mg) as a white solid: MS (m/z) 342.9 (M−1), 345.0 (M−1), and 4-Bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester (473 mg) as a white solid: MS (m/z) 342.9 (M−1), 345.0 (M−1).

reactant | 4,7-dihydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C=1C(=C2C(=C(N1)O)SN=C2C)O | C12H14N2O4S
reactant | 4,7-dihydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | 6.67 mmol | C(CCC)OC(=O)C1=C(C2=C(C(=N1)O)C(=NS2)C)O | C12H14N2O4S
reactant | POBr3 | 8.0 mmol | P(=O)(Br)(Br)Br | Br3OP
solvent | dichloroethane | 33.3 mL | ClC(C)Cl | C2H4Cl2
product | 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | 850 mg | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C)O | C12H13BrN2O3S
